US09145418B2
Ethyl (2E)-4-{[(4-acetyl-1H-pyrrol-2-yl)carbonyl]amino}but-2-enoate [(X)]
Ethyl (2E)-4-aminobut-2-enoate trifluoroacetate (2.665 g, 10.963 mmol) was added to a solution of 1-(4-acetyl-1H-pyrrol-2-yl)-2,2,2-trichloroethanone (1.8 g, 7.07 mmol) and N,N-diisopropylethylamine (DIPEA) (5.4 mL, 32 mmol) in dichloromethane (20 mL) and the reaction mixture was stirred at room temperature overnight. The solvent was evaporated under vacuum and the residue purified by flash chromatography (SiO2, hexane-EtOAc 1:1) to obtain the title compound as an off-white solid (1.2 g, 65% yield).

reactant | Ethyl (2E)-4-aminobut-2-enoate trifluoroacetate | 10.963 mmol, 2.665 g | FC(C(=O)O)(F)F.NC/C=C/C(=O)OCC
reactant | 1-(4-acetyl-1H-pyrrol-2-yl)-2,2,2-trichloroethanone | 7.07 mmol, 1.8 g | C(C)(=O)C=1C=C(NC1)C(C(Cl)(Cl)Cl)=O | C8H6Cl3NO2
reactant | N,N-diisopropylethylamine | 32 mmol, 5.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Ethyl (2E)-4-{[(4-acetyl-1H-pyrrol-2-yl)carbonyl]amino}but-2-enoate | 1.2 g, 65% yield | C(C)(=O)C=1C=C(NC1)C(=O)NC/C=C/C(=O)OCC | C13H16N2O4
